US09334278B2
A mixture of 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide (0.110 g, 0.25 mmol), 3-methanesulfonyl-phenylamine (0.086 g, 0.5 mmol), tris(dibenzylideneacetone)dipalladium (0.011 g, 0.0125 mmol), racemic BINAP [rac-2,2′-bis(diphenylphosphino)-1,1′-binaphthyl](0.023 g, 0.038 mmol) and sodium tert-butoxide (0.060 g, 0.63 mmol) in toluene (2.5 mL), under an argon atmosphere, was heated and stirred in a sealed vessel at 110° C. for 21.5 h. The cooled reaction mixture was diluted with ethyl acetate, washed once with brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. Purification by chromatography (silica, 75% ethyl acetate in hexanes) gave 0.107 g of slightly impure 2-(3-methanesulfonyl-phenylamino)-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide as a yellow glass. The reaction was repeated as above, and the combined slightly impure products were purified further by chromatography (silica, 33% ethyl acetate in hexanes) to give 2-(3-methanesulfonyl-phenylamino)-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide (0.169 g, 64%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ ppm −0.07 (s, 9H), 0.85 (t, J=8.2 Hz, 2H), 1.30 (s, 9H), 2.64 (s, 3H), 3.19 (s, 3H), 3.54 (t, J=8.2 Hz, 2H), 5.59 (s, 2H), 7.49 (m, 1H), 7.56 (m, 1H), 7.62 (s, 1H), 7.96 (m, 1H), 8.05 (m, 1H), 8.16 (s, 1H), 8.74 (s, 1H). MS (EI/CI) m/z: 532 [M+H].

reactant | 2-bromo-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide | 0.25 mmol, 0.110 g | C(C)(C)(C)NC(=O)C1=CN(C2=NC(=C(N=C21)Br)C)COCC[Si](C)(C)C | C18H29BrN4O2Si
reactant | 3-methanesulfonyl-phenylamine | 0.5 mmol, 0.086 g | CS(=O)(=O)C=1C=C(C=CC1)N | C7H9NO2S
reactant | BINAP | 0.038 mmol, 0.023 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | sodium tert-butoxide | 0.63 mmol, 0.060 g | CC(C)([O-])C.[Na+]
solvent | toluene | 2.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium | 0.0125 mmol, 0.011 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(3-methanesulfonyl-phenylamino)-3-methyl-5-(2-trimethylsilanyl-ethoxymethyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)C1=CN(C2=NC(=C(N=C21)NC2=CC(=CC=C2)S(=O)(=O)C)C)COCC[Si](C)(C)C | C25H37N5O4SSi
